US05856503
4.3 g of potassium tert. butylate are dissolved in 160 ml of THF and treated slowly with 4.5 ml of benzyl mercaptan. The suspension is stirred at RT and then treated with 10 g of (4-bromophenyl)-(2-fluoro-4-methoxy-phenyl)-methanone in 200 ml of THF. The solution is stirred at RT and treated with 100 ml of ammonium chloride solution as well as 200 ml of sodium hydrogen carbonate solution. The phases are separated, the inorganic phase is extracted with ethyl acetate and the organic phases are washed with sat. sodium hydrogen carbonate solution and sodium chloride solution and dried. There are obtained 15.8 g of (2-benzylsulphanyl-4-methoxyphenyl)-(4-bromo-phenyl)-methanone which are taken up in 160 ml of methylene chloride, treated with 3.4 ml of sulphuryl chloride and stirred at RT. After distillation of the sulphuryl chloride the residue is taken up in 160 ml of THF, treated with 120 ml of a saturated ammonia solution in ethanol and stirred. 100 ml of sodium hydrogen carbonate solution are added. The solvent is removed and the residue is again taken up in sodium hydrogen carbonate solution and ethyl acetate. The phases are separated and the inorganic phase is extracted with ethyl acetate and ether. The organic phases are washed with sodium chloride solution and dried. Recrystallization from ethyl acetate/ethanol yields 7.52 g of 3-(4-bromo-phenyl)-6-methoxy-[d]-benzisothiazole, MS: m/e 318 (M, 1 Br).

reactant | benzyl mercaptan | 4.5 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | (4-bromophenyl)-(2-fluoro-4-methoxy-phenyl)-methanone | 10 g | BrC1=CC=C(C=C1)C(=O)C1=C(C=C(C=C1)OC)F | C14H10BrFO2
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | THF | 160 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (2-benzylsulphanyl-4-methoxyphenyl)-(4-bromo-phenyl)-methanone | 15.8 g | C(C1=CC=CC=C1)SC1=C(C=CC(=C1)OC)C(=O)C1=CC=C(C=C1)Br | C21H17BrO2S
